US09403818B2
2-bromo-4-chloro-3-methoxy-pyridine (2.97 g, 13.4 mmol) was added to THF (dry) (100 ml) and cooled to 0° C. Isopropylmagnesium chloride-lithium chloride complex (13.5 ml, 17.6 mmol) was added and the reaction mixture stirred for 0.5 h at room temperature. The mixture was cooled to 0° C., cyclopropanecarboxaldehyde (1.297 ml, 17.4 mmol) was added and the reaction mixture stirred for 1 h at room temperature. The mixture was cooled to 0° C., water (72.3 ml, 4 mol) was added and the reaction mixture stirred overnight at room temperature. The reaction mixture was extracted with ethyl acetate (3×75 mL), the organic phase dried over sodium sulfate, filtered and evaporated to dryness to obtain crude product which was purified over silica gel using 0:1 to 1:0 ethyl acetate in heptane to obtain (4-chloro-3-methoxy-2-pyridyl)-cyclopropyl-methanol as a yellow oil (2.4 g, 70%)

reactant | 2-bromo-4-chloro-3-methoxy-pyridine | 13.4 mmol, 2.97 g | BrC1=NC=CC(=C1OC)Cl | C6H5BrClNO
reactant | cyclopropanecarboxaldehyde | 17.4 mmol, 1.297 ml | C1(CC1)C=O | C4H6O
reactant | water | 4 mol, 72.3 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (4-chloro-3-methoxy-2-pyridyl)-cyclopropyl-methanol | 2.4 g, 70% | ClC1=C(C(=NC=C1)C(O)C1CC1)OC | C10H12ClNO2
